US07351725B2
Step A: 4-(Octyloxymethyl)benzyl alcohol
Sodium hydride (0.17 g, 7.20 mmol) was added to a solution of 1,4-benzene dimethanol (1.00 g, 7.20 mmol) in THF at 0° C. The reaction was stirred for 1 h. 1-iodooctane (1.73 g; 7.20 mmol) was added and the reaction mixture was warmed to rt for 4 h and then heated at 50° C. for 2 days. The reaction was cooled and filtered. Silica gel chromatography eluting with 15% ethyl acetate/hexane gave 0.14 g of product: 1H NMR (500 MHz) δ 7.34-7.40 (m, 4H), 4.68-4.72 (m, 2H, 4.51 (s, 2H), 3.46-3.50 (m, 2H), 1.61-1.68 (m, 2H), 1.24-1.40 (m, 10H), 0.88-0.92 (m, 3H).

reactant | Sodium hydride | 7.20 mmol, 0.17 g | [H-].[Na+]
reactant | 1,4-benzene dimethanol | 7.20 mmol, 1.00 g | C1(=CC=C(C=C1)CO)CO | C8H10O2
reactant | 1-iodooctane | 7.20 mmol, 1.73 g | ICCCCCCCC | C8H17I
solvent | THF | C1CCOC1 | C4H8O
product | 4-(Octyloxymethyl)benzyl alcohol | 0.14 g | C(CCCCCCC)OCC1=CC=C(CO)C=C1 | C16H26O2
